US04339443
Sodium methyl(2-methylperhydro-1,3-diazin-2-yl)phosphinate
Sodium acetylmethylphosphinate (2.9 g, 0.02 mol) and 1,3-diaminopropane (1.7 ml, 1.5 g, 0.02 mol) were stirred together in ethanol (60 ml) for 21/2 days and then evaporated under reduced pressure. The white solid was dried in vacuo, removing most of the ethanol. No unreacted starting material remained by N.m.r. The purity was estimated as approximately 95% from n.m.r, 4.1 g product was obtained.

reactant | Sodium acetylmethylphosphinate | 0.02 mol, 2.9 g | C(C)(=O)CP([O-])=O.[Na+]
reactant | 1,3-diaminopropane | 0.02 mol, 1.7 ml, 1.5 g | NCCCN | C3H10N2
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | Sodium methyl(2-methylperhydro-1,3-diazin-2-yl)phosphinate | CP([O-])(=O)C1(NCCCN1)C.[Na+] | InChI=1S/C6H15N2O2P.Na/c1-6(11(2,9)10)7-4-3-5-8-6;/h7-8H,3-5H2,1-2H3,(H,9,10);/q;+1/p-1
